### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Limits/Shapes/Reflexive): the walking reflexive pair

### PR DESCRIPTION
**Pull request by robin-carlier**
- Define `WalkingReflexivePair`, the category indexing reflexive pair.
- Show that the forgetful functor from this category to `WalkingParallelPair` is `Final`.
- Show that coequalizers of reflexive pairs are equivalent to colimits of diagrams indexed by `WalkingReflexivePair`.
- Show that having coequalizers of all reflexive pairs is equivalent to having all `WalkingReflexivePair`-shaped colimits.

---

- [x] depends on: #17723 

There are probably a few names that could be better, perhaps some statements would belong to a new `ReflexivePair` namespace?

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 1]
```diff
@@ -173,6 +194,365 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+
+@[simp]
+theorem walkingReflexivePairHom_right_comp_reflexion : right.comp reflexion = right_reflexion := rfl
+
+@[simp]
+theorem WalkingReflexivePairHom.id.sizeOf_spec' (X : WalkingReflexivePair) :
+    (WalkingReflexivePairHom._sizeOf_inst X X).sizeOf (𝟙 X) = 1 + sizeOf X := by cases X <;> rfl
+
+/-- The forgetful functor forgetting the common section -/
+def forgetReflexion : WalkingParallelPair ⥤ WalkingReflexivePair :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:284]: A better name should be found because this is not a forgetful functor. Depending on the chosen name, this may have to be put in the `WalkingReflexivePair` or `WalkingParallelPair` namespace.

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 2]
```diff
@@ -173,6 +194,365 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+
+open WalkingReflexivePair
+
+open WalkingReflexivePairHom
+
+variable {C : Type u} [Category.{v} C]
+
+@[simp]
+theorem reflexivePair_reflexion_comp_left (F : WalkingReflexivePair ⥤ C) :
+    F.map reflexion ≫  F.map left = 𝟙 F.obj zero :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:423]:
```suggestion
    F.map reflexion ≫ F.map left = 𝟙 F.obj zero :=
```
There are many other similar spacing issues.

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 3]
```diff
@@ -173,6 +194,365 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+    match h with
+    | WalkingReflexivePairHom.id _ => 𝟙 _
+    | left => f
+    | right => g
+    | reflexion => commonSection f g
+    | right_reflexion => g ≫  (commonSection f g)
+    | left_reflexion => f ≫  (commonSection f g)
+  map_comp := by
+    rintro _ _ _ ⟨⟩ g <;> cases g <;> try {rfl} <;>
+    try {dsimp; simp [↑ section_comp_left, ↑ section_comp_right]; rfl} <;> try {simp}
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:404]:
```suggestion
    rintro _ _ _ ⟨⟩ g <;> cases g <;> aesop_cat
```
I do not know what it is purpose of these ` ↑`?

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 4]
```diff
@@ -173,6 +194,365 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+    | reflexion => s
+    | right_reflexion => g ≫  s
+    | left_reflexion => f ≫  s
+  map_comp := by
+    rintro _ _ _ ⟨⟩ g <;> cases g <;> try {rfl} <;>
+    try {simp [← Category.assoc, sl, sr]; rfl} <;> try {simp}
+
+/-- (Noncomputably) bundle the data of a reflexive pair as a functor out of the walking reflexive
+pair -/
+noncomputable def ofIsReflexivePair (f g : A ⟶ B) [IsReflexivePair f g] :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:388]: It seems this is a particular case of `reflexivePair`, so that it is not necessary to reproduce the construction. You may apply `reflexivePair` to `f`, `g` and `commonSection f g`.

**Review by joelriou — CHANGES_REQUESTED** [review]
As this is available in mathlib, I would advocate for a definition of the category `WalkingReflexivePair` by using generators and relations as follows:

```lean
import Mathlib.CategoryTheory.PathCategory

namespace CategoryTheory.Limits

inductive WalkingReflexivePairQuiver : Type where
  | zero
  | one

namespace WalkingReflexivePairQuiver

inductive Hom : WalkingReflexivePairQuiver → WalkingReflexivePairQuiver → Type
  | left : Hom zero one
  | right : Hom zero one
  | section_ : Hom one zero

instance : Quiver WalkingReflexivePairQuiver where
  Hom := Hom

abbrev left : zero ⟶ one := Hom.left
abbrev right : zero ⟶ one := Hom.right
abbrev section_ : one ⟶ zero := Hom.section_

inductive homRel : HomRel (Paths WalkingReflexivePairQuiver)
  | section_left : homRel (section_.toPath ≫ left.toPath) (𝟙 _)
  | section_right : homRel (section_.toPath ≫ right.toPath) (𝟙 _)

end WalkingReflexivePairQuiver

def WalkingReflexivePair := Quotient WalkingReflexivePairQuiver.homRel
  deriving Category

end CategoryTheory.Limits
```

It should make a few constructions slightly easier (removing case by case studies). Only the proof that the inclusion from `WalkingParallelPair` is final would need some changes.

(If it is too complicated to get the cofinality property, you may keep the more explicit approach.)

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean (hunk 3 above)
Comment (kmill) [reply Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:404]: `↑` causes `simp` to apply the lemma after simplifying a subterm (I believe this is the default, so it shouldn't be necessary). You can also use `↓` to cause `simp` to apply lemmas before simplifying a subterm.

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 5]
```diff
@@ -173,6 +194,365 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+    | zero => B
+    | one => A
+  map h :=
+    match h with
+    | WalkingReflexivePairHom.id _ => 𝟙 _
+    | left => f
+    | right => g
+    | reflexion => commonSection f g
+    | right_reflexion => g ≫  (commonSection f g)
+    | left_reflexion => f ≫  (commonSection f g)
```
Comment (kmill) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:401]:
```suggestion
    | right_reflexion => g ≫ commonSection f g
    | left_reflexion => f ≫ commonSection f g
```

**Comment by jcommelin** [comment]
@robin-carlier This PR looks mostly fine, but there are still some places where it needs some work. I see that you have attempted to process some of the review comments. Are you planning to continue working on this PR? Would you like some help from others, or do you want to hand over completely?

**Comment by robin-carlier** [comment]
> @robin-carlier This PR looks mostly fine, but there are still some places where it needs some work. I see that you have attempted to process some of the review comments. Are you planning to continue working on this PR? Would you like some help from others, or do you want to hand over completely?

I am taking a break from math (and consequently lean)-related stuff for the time being, so I don’t plan to start working back on this in the near future and I’d gladly hand it over completely if someone wants to work on this or if this content is needed.

**Comment by robin-carlier** [comment]
I ended up changing the name of `forgetReflexion` to `inclusionWalkingReflexivePair` in the `WalkingParallelPair` namespace. It leads to rather long names but I’m out of ideas of a better name.

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 6]
```diff
@@ -3,27 +3,50 @@ Copyright (c) 2020 Bhavik Mehta. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Bhavik Mehta
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:4]:
```suggestion
Authors: Bhavik Mehta, Robin Carlier
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 7]
```diff
@@ -148,6 +171,372 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+    (h : WalkingReflexivePairHom Z W) : comp (comp f g) h = comp f (comp g h) := by
+  cases f <;> cases g <;> cases h <;> rfl
+
+instance walkingReflexivePairCategory : SmallCategory WalkingReflexivePair where
+  Hom := WalkingReflexivePairHom
+  id := id
+  comp := comp
+  comp_id := comp_id
+  id_comp := id_comp
+  assoc := assoc
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:244]: As these lemmas should not be needed outside of the definition of the category structure, it would suggest doing this:
```suggestion
instance walkingReflexivePairCategory : SmallCategory WalkingReflexivePair where
  Hom := WalkingReflexivePairHom
  id := id
  comp := comp
  comp_id f := by cases f <;> rfl
  id_comp f := by cases f <;> rfl
  assoc f g h := by cases f <;> cases g <;> cases h <;> rfl
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 8]
```diff
@@ -148,6 +171,372 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+/-- The type of objects for the diagram indexing reflexive (co)equalizers -/
+inductive WalkingReflexivePair : Type where
+  | zero
+  | one
+  deriving DecidableEq, Inhabited
+
+open WalkingReflexivePair
+
+/-- The type of morphisms for the diagram indexing reflexive (co)equalizers -/
+inductive WalkingReflexivePairHom : (WalkingReflexivePair → WalkingReflexivePair → Type)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:191]: All the definition related to the category `WalkingReflexivePair` should be in the same namespace, like `WalkingReflexivePair.Hom`, etc.

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 9]
```diff
@@ -148,6 +171,372 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+theorem walkingReflexivePairHom_left_comp_reflexion : left.comp reflexion = left_reflexion := rfl
+
+@[simp]
+theorem walkingReflexivePairHom_right_comp_reflexion : right.comp reflexion = right_reflexion := rfl
+
+namespace WalkingParallelPair
+
+/-- The forgetful functor forgetting the common section -/
+def inclusionWalkingReflexivePair : WalkingParallelPair ⥤ WalkingReflexivePair :=
+  { obj := fun x => match x with
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:260]: In Lean 4, the preferred syntax is:
```suggestion
def inclusionWalkingReflexivePair : WalkingParallelPair ⥤ WalkingReflexivePair where
  obj := fun x => match x with
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 10]
```diff
@@ -148,6 +171,372 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+  intro x
+  have h : Inhabited (StructuredArrow x inclusionWalkingReflexivePair) := by
+    · constructor
+      cases x with
+      | one => exact e₀
+      | zero => exact e₁
+  cases x with
+    | zero => apply IsConnected.of_induct (j₀ := e₁)
+              intro p h₁ h₂ t
+              rcases t with ⟨l, y, f⟩
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:308]: `intro/rcases` can be combined as:
```suggestion
              rintro p h₁ h₂ ⟨l, y, f⟩
```
(There is another similar situation below.)

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 11]
```diff
@@ -148,6 +171,372 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+
+@[simp]
+lemma whisker_inclusionWalkingReflexivePair_right (F : WalkingReflexivePair ⥤ C) :
+    F.map (inclusionWalkingReflexivePair.map WalkingParallelPairHom.right) = F.map right := rfl
+
+/-- The forgetful functor is a final functor -/
+instance inclusionWalkingReflexivePair_final : Functor.Final inclusionWalkingReflexivePair := by
+  constructor
+  set e₀ : (StructuredArrow WalkingReflexivePair.one inclusionWalkingReflexivePair) :=
+    StructuredArrow.mk (Y := WalkingParallelPair.zero) (id WalkingReflexivePair.one)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:296]:
```suggestion
    StructuredArrow.mk (Y := WalkingParallelPair.zero) (𝟙 _)
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 12]
```diff
@@ -148,6 +171,372 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+open WalkingReflexivePairHom
+
+variable {C : Type u} [Category.{v} C]
+
+variable {A B : C}
+
+/-- Bundle the data of a parallel pair along with a common section as a functor out of the walking
+reflexive pair -/
+def reflexivePair (f g : A ⟶ B) (s : B ⟶ A) (sl : s ≫ f = 𝟙 B) (sr : s ≫ g = 𝟙 B) :
+    (WalkingReflexivePair ⥤ C) where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:360]:
```suggestion
    WalkingReflexivePair ⥤ C where
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 13]
```diff
@@ -148,6 +171,372 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+  comp_id := comp_id
+  id_comp := id_comp
+  assoc := assoc
+
+@[simp]
+theorem walkingReflexivePairHom_id (X : WalkingReflexivePair) :
+    WalkingReflexivePairHom.id X = 𝟙 X := by rfl
+
+@[simp]
+theorem walkingReflexivePairHom_left_comp_reflexion : left.comp reflexion = left_reflexion := rfl
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:251]: As much as possible, one the `Category` instance has been defined, we should use `≫` (`CategoryStruct.comp`) instead of the `comp` defined above. It would take the following form:
```lean
theorem walkingReflexivePairHom_left_comp_reflexion :
  (left ≫ reflexion : one ⟶ one) = left_reflexion := rfl```
```
(The annoying thing is that Lean cannot guess that `left` and `reflexion` are morphisms in a category, so that we need to help them a little bit.)
Actually, I am not convinced that this would be the best normal form, I would rather suggest keeping `left ≫ reflexion` as the normal form (and then `left_reflexion` is part of the internals of the implementation; by the way, `leftCompReflexion` may be a name that fits better our naming conventions!?)

Comment (joelriou) [reply Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:251]: However, the following lemmas would be useful:
```lean
@[reassoc (attr := simp)]
theorem reflexion_comp_left : reflexion ≫ left = 𝟙 zero := rfl

@[reassoc (attr := simp)]
theorem reflexion_comp_right : reflexion ≫ right = 𝟙 zero := rfl
```
(With this combination of `reassoc` of `simp`, we should get reasonable normal forms for morphisms in that category.)

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 14]
```diff
@@ -148,6 +171,372 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+open WalkingReflexivePair
+
+open WalkingReflexivePairHom
+
+variable {C : Type u} [Category.{v} C]
+
+@[simp]
+theorem reflexivePair_reflexion_comp_left (F : WalkingReflexivePair ⥤ C) :
+    F.map reflexion ≫ F.map left = 𝟙 F.obj zero :=
+  (F.map_id zero).symm.trans (F.map_comp reflexion left)|>.symm
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:406]: Using the `reflexion_comp_left` lemma suggested above: 
```suggestion
        F.map reflexion ≫ F.map left = 𝟙 (F.obj zero) := by
  rw [← F.map_comp, reflexion_comp_left, F.map_id]
```
(Note also the parentheses change.)

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 15]
```diff
@@ -148,6 +171,372 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+
+namespace Limits
+
+open WalkingReflexivePair
+
+open WalkingReflexivePairHom
+
+variable {C : Type u} [Category.{v} C]
+
+@[simp]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:403]: Doing the following, `F.map reflexion ≫ F.map left ≫f` will simplify into `f`: 
```suggestion
@[reassoc (attr:= simp)]
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 16]
```diff
@@ -148,6 +171,372 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+
+open WalkingReflexivePairHom
+
+variable {C : Type u} [Category.{v} C]
+
+variable {A B : C}
+
+/-- Bundle the data of a parallel pair along with a common section as a functor out of the walking
+reflexive pair -/
+def reflexivePair (f g : A ⟶ B) (s : B ⟶ A) (sl : s ≫ f = 𝟙 B) (sr : s ≫ g = 𝟙 B) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:359]: With this, Lean will try to fill in the proofs automatically: 
```suggestion
def reflexivePair (f g : A ⟶ B) (s : B ⟶ A) (sl : s ≫ f = 𝟙 B := by aesop_cat) (sr : s ≫ g = 𝟙 B := by aesop_cat) :
```
Then, you should also add lemmas like
```lean
@[simp] lemma reflexivePair_obj_zero : (reflexivePair f g s sl sr).obj zero = B := rfl
```
and similarly `obj_one`, `map_left`, `map_right` and `map_reflexion`.

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 17]
```diff
@@ -148,6 +171,372 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+@[simp]
+theorem reflexivePair_right_comp_reflexion (F : WalkingReflexivePair ⥤ C) :
+    F.map right_reflexion = F.map right ≫ F.map reflexion := F.map_comp right reflexion
+
+/-- Any functor out of `WalkingReflexivePair` is isomorphic to the reflexive pair built out of the
+images of its morphisms -/
+def diagramIsoReflexivePair (F : WalkingReflexivePair ⥤ C) :
+    F ≅ reflexivePair (F.map left) (F.map right) (F.map reflexion)
+    ((F.map_id zero).symm.trans (F.map_comp reflexion left)).symm
+    ((F.map_id zero).symm.trans (F.map_comp reflexion right)).symm :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:426]: Taking into account suggestions above, I would proceed like this:
```lean
def diagramIsoReflexivePair (F : WalkingReflexivePair ⥤ C) :
    F ≅ reflexivePair (F.map left) (F.map right) (F.map reflexion) :=
  NatIso.ofComponents (fun x ↦ match x with
    | zero => Iso.refl _
    | one => Iso.refl _)
  (fun f ↦ by cases f <;> simp)
```
(As much as possible, I feel it is slightly better not to use `eqToIso`.)
More generally, as you have defined a constructor for functors from the category `WalkingReflexivePair`, it would be nice to introduce also a constructor for natural transformations (and then natural isomorphisms) between objets in `WalkingReflexivePair ⥤ C`. Then, `diagramIsoReflexivePair` would appear as a special case of this.

**Comment by joelriou** [comment]
This PR needs some modifications so as to fit more into the mathlib conventions, but the results look very nice to me.

**Comment by robin-carlier** [comment]
Thank you for the extensive review and the numerous tricks I did not know about!
I have implemented your suggestions, and added a few new constructors to bundles functors from or towards a term of the form `reflexivePair …`.
To avoid cluttering things too much, I decided not to put a constructor for natural transforms between two `reflexivePair`, because it can already be constructed with `mkNatTrans` and `mkNatTrans'` if needed.

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 18]
```diff
@@ -148,6 +171,492 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+/-- The type of objects for the diagram indexing reflexive (co)equalizers -/
+inductive WalkingReflexivePair : Type where
+  | zero
+  | one
+  deriving DecidableEq, Inhabited
+
+open WalkingReflexivePair
+
+namespace WalkingReflexivePair
+/-- The type of morphisms for the diagram indexing reflexive (co)equalizers -/
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:191]:
```suggestion

/-- The type of morphisms for the diagram indexing reflexive (co)equalizers -/
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 19]
```diff
@@ -148,6 +171,492 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+  | _, _, _, leftCompReflexion, leftCompReflexion => leftCompReflexion
+
+instance category : SmallCategory WalkingReflexivePair where
+  Hom := Hom
+  id := Hom.id
+  comp := Hom.comp
+  comp_id := by intro _ _ f; cases f <;> rfl
+  id_comp := by intro _ _ f; cases f <;> rfl
+  assoc := by intro _ _ _ _ f g h; cases f <;> cases g <;> cases h <;> rfl
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:233]:
```suggestion
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 20]
```diff
@@ -148,6 +171,492 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+
+open Hom
+
+@[simp]
+lemma Hom_id (X : WalkingReflexivePair) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:238]:
```suggestion
lemma Hom.id_eq (X : WalkingReflexivePair) :
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 21]
```diff
@@ -148,6 +171,492 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+    Hom.id X = 𝟙 X := by rfl
+
+@[reassoc (attr := simp)]
+lemma reflexion_comp_left : reflexion ≫ left = 𝟙 zero := rfl
+
+@[reassoc (attr := simp)]
+lemma reflexion_comp_right : reflexion ≫ right = 𝟙 zero := rfl
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:246]:
```suggestion

```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 22]
```diff
@@ -148,6 +171,491 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+             · exact hrₗ
+             · exact hrᵣ
+             · set v : StructuredArrow .one inclusionWalkingReflexivePair :=
+                StructuredArrow.mk (Y := zero) leftCompReflexion
+               suffices f : v ⟶  rₗ by exact (h₂ f).mpr hrₗ
+               exact StructuredArrow.homMk .left
+             · set v : StructuredArrow .one inclusionWalkingReflexivePair :=
+                StructuredArrow.mk (Y := .zero) rightCompReflexion
+               suffices f : v ⟶  rᵣ by exact (h₂ f).mpr hrᵣ
+               exact StructuredArrow.homMk .right
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:336]: The syntax can be improved:
```suggestion
instance (X : WalkingReflexivePair) :
    Nonempty (StructuredArrow X inclusionWalkingReflexivePair) := by
  cases X with
  | zero => exact ⟨StructuredArrow.mk (Y := one) (𝟙 _)⟩
  | one => exact ⟨StructuredArrow.mk (Y := zero) (𝟙 _)⟩

open WalkingReflexivePair.Hom in
instance (X : WalkingReflexivePair) :
    IsConnected (StructuredArrow X inclusionWalkingReflexivePair) := by
  cases X with
  | zero =>
      refine IsConnected.of_induct  (j₀ := StructuredArrow.mk (Y := one) (𝟙 _)) ?_
      rintro p h₁ h₂ ⟨⟨⟨⟩⟩, (_ | _), ⟨_⟩⟩
      · exact (h₂ (StructuredArrow.homMk .left)).2 h₁
      · exact h₁
  | one =>
      refine IsConnected.of_induct  (j₀ := StructuredArrow.mk (Y := zero) (𝟙 _))
        (fun p h₁ h₂ ↦ ?_)
      have hₗ : StructuredArrow.mk left ∈ p := (h₂ (StructuredArrow.homMk .left)).1 h₁
      have hᵣ : StructuredArrow.mk right ∈ p := (h₂ (StructuredArrow.homMk .right)).1 h₁
      rintro ⟨⟨⟨⟩⟩, (_ | _), ⟨_⟩⟩
      · exact (h₂ (StructuredArrow.homMk .left)).2 hₗ
      · exact (h₂ (StructuredArrow.homMk .right)).2 hᵣ
      all_goals assumption

/-- The inclusion functor is a final functor -/
instance inclusionWalkingReflexivePair_final : Functor.Final inclusionWalkingReflexivePair where
  out := inferInstance
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 23]
```diff
@@ -148,6 +171,491 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+namespace reflexivePair
+
+open WalkingReflexivePair WalkingReflexivePair.Hom
+
+section
+
+variable {A B : C}
+variable (f g : A ⟶ B) (s : B ⟶ A) (sl : s ≫ f = 𝟙 B) (sr : s ≫ g = 𝟙 B)
+
+@[simp] lemma obj_zero : (reflexivePair f g s sl sr).obj zero = B := rfl
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:401]: These lemmas should preferably be stated just after the definition of `reflexivePair`. The standard names should be `reflexivePair_obj_zero`, etc.

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 24]
```diff
@@ -148,6 +171,491 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+
+@[simp] lemma map_right : (reflexivePair f g s sl sr).map left = f := rfl
+
+@[simp] lemma map_left : (reflexivePair f g s sl sr).map right = g := rfl
+
+@[simp] lemma map_reflexion : (reflexivePair f g s sl sr).map reflexion = s := rfl
+
+section NatTrans
+
+variable (F : WalkingReflexivePair ⥤ C)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:413]:
```suggestion
variable {F : WalkingReflexivePair ⥤ C}
```
This seems better to me for the next three definition. `varaiable (F)` should then be added after `mkNatIso`.

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 25]
```diff
@@ -148,6 +171,491 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+        | right => simp [h₂]
+        | reflexion => simp [h₃]
+        | leftCompReflexion => dsimp
+                               simp only [Functor.map_comp, obj_one, obj_zero,
+                                map_right, map_reflexion, Category.assoc, h₃,
+                                reassoc_of% h₁]
+        | rightCompReflexion => dsimp
+                                simp only [Functor.map_comp, obj_one, obj_zero,
+                                 map_left, map_reflexion, Category.assoc, h₃,
+                                 reassoc_of% h₂])
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:489]: Arguably, this would be slightly better:
```suggestion
@[simps!]
/-- Constructor for natural isomorphisms with a `reflexivePair`. -/
@[simps]
def mkNatIso (u : F.obj one ≅ A) (v : F.obj zero ≅ B)
    (h₁ : (F.map left) ≫ v.hom = u.hom ≫ f := by aesop_cat)
    (h₂ : (F.map right) ≫ v.hom = u.hom ≫ g := by aesop_cat)
    (h₃ : (F.map reflexion) ≫ u.hom = v.hom ≫ s := by aesop_cat) :
    F ≅ reflexivePair f g s sl sr where
  hom := mkNatTrans u.hom v.hom 
  inv := mkNatTrans' u.inv v.inv
    (by rw [← cancel_epi u.hom, u.hom_inv_id_assoc, ← reassoc_of% h₁, v.hom_inv_id,
            Category.comp_id])
    (by rw [← cancel_epi u.hom, u.hom_inv_id_assoc, ← reassoc_of% h₂, v.hom_inv_id,
            Category.comp_id])
    (by rw [← cancel_epi v.hom, v.hom_inv_id_assoc, ← reassoc_of% h₃, u.hom_inv_id,
            Category.comp_id])
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 26]
```diff
@@ -148,6 +171,440 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+
+namespace reflexivePair
+
+open WalkingReflexivePair WalkingReflexivePair.Hom
+
+section
+section NatTrans
+
+/-- A constructor for natural transforms to a diagram of the form `reflexivePair f g s`. -/
+def mkNatTrans {F G : WalkingReflexivePair ⥤ C}
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:395]: `variable {F G : WalkingReflexivePair ⥤ C}` should be inserted before these declarations.

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 27]
```diff
@@ -148,6 +171,440 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+    (h₂ : F.map right ≫ e₀ = e₁ ≫ G.map right)
+    (h₃ : F.map reflexion ≫ e₁ = e₀ ≫ G.map reflexion) :
+    (mkNatTrans e₀ e₁ h₁ h₂ h₃).app one = e₁ := rfl
+
+
+variable {F G: WalkingReflexivePair ⥤ C}
+
+/-- Constructor for natural isomorphisms with a `reflexivePair`. -/
+@[simps!]
+def mkNatIso (u : F.obj one ≅ G.obj one) (v : F.obj zero ≅ G.obj zero)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:434]: It would be better to use the same order of parameters as for `mkNatTrans`. (The proof could be exactly the same, or by constructing `hom`, and `inv` using `mkNatTrans` as I suggested.)
```suggestion
def mkNatIso (e₀ : F.obj zero ≅ G.obj zero) (e₁ : F.obj one ≅ G.obj one)
```

Comment (joelriou) [reply Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:434]: (Same for `whiskerRightMkNatTrans`.)

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 28]
```diff
@@ -148,6 +171,440 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+    (u : F.obj zero ⟶ G.obj zero) (v : F.obj one ⟶ G.obj one)
+    {h₁ : F.map left ≫ u = v ≫ G.map left}
+    {h₂ : F.map right ≫ u = v ≫ G.map right}
+    {h₃ : F.map reflexion ≫ v = u ≫ G.map reflexion}
+    (H : C ⥤ D) :
+      (whiskerRight (mkNatTrans u v : F ⟶ G) H) = mkNatTrans
+            (H.map u) (H.map v)
+            (by simp only [Functor.comp_obj, Functor.comp_map, ← Functor.map_comp, h₁])
+            (by simp only [Functor.comp_obj, Functor.comp_map, ← Functor.map_comp, h₂])
+            (by simp only [Functor.comp_obj, Functor.comp_map, ← Functor.map_comp, h₃]) := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:489]:
```suggestion
    {h₃ : F.map reflexion ≫ v = u ≫ G.map reflexion} (H : C ⥤ D) :
    (whiskerRight (mkNatTrans u v : F ⟶ G) H) =
      mkNatTrans (H.map u) (H.map v)
          (by simp only [Functor.comp_obj, Functor.comp_map, ← Functor.map_comp, h₁])
          (by simp only [Functor.comp_obj, Functor.comp_map, ← Functor.map_comp, h₂])
          (by simp only [Functor.comp_obj, Functor.comp_map, ← Functor.map_comp, h₃]) := by
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 29]
```diff
@@ -148,6 +171,440 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+abbrev ReflexiveCofork (F : WalkingReflexivePair ⥤ C) := Cocone F
+
+namespace ReflexiveCofork
+
+open WalkingReflexivePair WalkingReflexivePair.Hom
+
+variable {F : WalkingReflexivePair ⥤ C}
+
+/-- The tail morphism of a reflexive cofork. -/
+abbrev π (G : ReflexiveCofork F) := G.ι.app zero
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:511]: For readibility, it is advisable to announce the type of defs/abbrevs:
```suggestion
abbrev π (G : ReflexiveCofork F) : F.obj zero ⟶ G.pt := G.ι.app zero
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 30]
```diff
@@ -148,6 +171,440 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+
+lemma condition (G : ReflexiveCofork F) : F.map left ≫ G.π = F.map right ≫ G.π := by
+  erw [Cocone.w G left, Cocone.w G right]
+
+@[simp]
+lemma app_one_eq_π (G : ReflexiveCofork F) : G.ι.app zero = G.π := rfl
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:518]: It would be nice to add a constructor for `ReflexiveCofork`:
```lean
@[simps pt]
def mk {X : C} (π : F.obj zero ⟶ X) (h : F.map left ≫ π = F.map right ≫ π) :
    ReflexiveCofork F where
  pt := X
  ι := reflexivePair.mkNatTrans π (F.map left ≫ π)

@[simp]
lemma mk_π {X : C} (π : F.obj zero ⟶ X) (h : F.map left ≫ π = F.map right ≫ π) :
    (mk π h).π = π := rfl
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 31]
```diff
@@ -148,6 +171,438 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+    (e₀ : F.obj zero ⟶ G.obj zero) (e₁ : F.obj one ⟶ G.obj one)
+    {h₁ : F.map left ≫ e₀ = e₁ ≫ G.map left}
+    {h₂ : F.map right ≫ e₀ = e₁ ≫ G.map right}
+    {h₃ : F.map reflexion ≫ e₁ = e₀ ≫ G.map reflexion}
+    {D : Type u₂} [Category.{v₂} D] (H : C ⥤ D) :
+      (whiskerRight (mkNatTrans e₀ e₁ : F ⟶ G) H) =
+        mkNatTrans (H.map e₀) (H.map e₁)
+            (by simp only [Functor.comp_obj, Functor.comp_map, ← Functor.map_comp, h₁])
+            (by simp only [Functor.comp_obj, Functor.comp_map, ← Functor.map_comp, h₂])
+            (by simp only [Functor.comp_obj, Functor.comp_map, ← Functor.map_comp, h₃]) := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:476]:
```suggestion
    whiskerRight (mkNatTrans e₀ e₁ : F ⟶ G) H =
      mkNatTrans (H.map e₀) (H.map e₁)
          (by simp only [Functor.comp_obj, Functor.comp_map, ← Functor.map_comp, h₁])
          (by simp only [Functor.comp_obj, Functor.comp_map, ← Functor.map_comp, h₂])
          (by simp only [Functor.comp_obj, Functor.comp_map, ← Functor.map_comp, h₃]) := by
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 32]
```diff
@@ -148,6 +171,438 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+    (mk π h).π = π := rfl
+
+lemma condition (G : ReflexiveCofork F) : F.map left ≫ G.π = F.map right ≫ G.π := by
+  erw [Cocone.w G left, Cocone.w G right]
+
+@[simp]
+lemma app_one_eq_π (G : ReflexiveCofork F) : G.ι.app zero = G.π := rfl
+
+/-- The underlying `Cofork` of a `ReflexiveCofork`. -/
+def toCofork (G : ReflexiveCofork F) : (Cofork (F.map left) (F.map right)) :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:518]:
```suggestion
def toCofork (G : ReflexiveCofork F) : Cofork (F.map left) (F.map right) :=
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 33]
```diff
@@ -148,6 +171,438 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+  Cocones.precompose (diagramIsoParallelPair (_ ⋙ F)).symm.hom |>.obj
+    <| G.whisker WalkingParallelPair.inclusionWalkingReflexivePair
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:520]: Linebreaks should be after infix operators:
```suggestion
  Cocones.precompose (diagramIsoParallelPair (_ ⋙ F)).symm.hom |>.obj <|
    G.whisker WalkingParallelPair.inclusionWalkingReflexivePair
```
(Same below.)

Comment (robin-carlier) [reply Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean]: Got it, I thought the `<|` and `|>` were following the rules for parentheses rather than operators. I’ll try to be careful next time.

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 34]
```diff
@@ -148,6 +171,438 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+
+namespace reflexivePair
+
+open WalkingReflexivePair WalkingReflexivePair.Hom
+
+section
+section NatTrans
+
+variable {F G: WalkingReflexivePair ⥤ C}
+/-- A constructor for natural transforms to a diagram of the form `reflexivePair f g s`. -/
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:395]: /-- A constructor for natural transformations between functors from `WalkingReflexivePair`. -/

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 35]
```diff
@@ -148,6 +171,438 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+    cases f
+    all_goals
+      dsimp
+      simp only [Functor.map_id, Category.id_comp, Category.comp_id,
+        Functor.map_comp, h₁, h₂, h₃, reassoc_of% h₁, reassoc_of% h₂,
+        reflexivePair_map_reflexion, reflexivePair_map_left, reflexivePair_map_right,
+        Category.assoc]
+
+@[simp]
+lemma mkNatTrans_app_zero (e₀ : F.obj zero ⟶ G.obj zero) (e₁ : F.obj one ⟶ G.obj one)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:414]: The variables for this lemma and the next are the same as above, so that you should put these three definitions/lemmas in a `section` and use `variable ...`.

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 36]
```diff
@@ -148,6 +171,438 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+applying the functor at each map. -/
+@[simps!]
+def compRightIso {D : Type u₂} [Category.{v₂} D] {A B : C}
+    (f g : A ⟶ B) (s : B ⟶ A) (sl : s ≫ f = 𝟙 B) (sr : s ≫ g = 𝟙 B) (F : C ⥤ D) :
+    (reflexivePair f g s sl sr) ⋙ F ≅ reflexivePair (F.map f) (F.map g) (F.map s)
+      (by simp only [← Functor.map_comp, sl, Functor.map_id])
+      (by simp only [← Functor.map_comp, sr, Functor.map_id]) :=
+  mkNatIso (Iso.refl _) (Iso.refl _)
+
+lemma whiskerRightMkNatTrans {F G: WalkingReflexivePair ⥤ C}
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:466]:
```suggestion
lemma whiskerRightMkNatTrans {F G : WalkingReflexivePair ⥤ C}
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 37]
```diff
@@ -148,6 +171,438 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+variable {C : Type u} [Category.{v} C]
+
+namespace reflexivePair
+
+open WalkingReflexivePair WalkingReflexivePair.Hom
+
+section
+section NatTrans
+
+variable {F G: WalkingReflexivePair ⥤ C}
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:394]:
```suggestion
variable {F G : WalkingReflexivePair ⥤ C}
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean (hunk 35 above)
Comment (robin-carlier) [reply Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:414]: Is there a syntax to make the autoparam `:= by aesop_cat` apply to only the definition `mkNatTrans` while putting these variables in a `variable ...`? Or should I just leave the autoparam even for the lemmas?

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 38]
```diff
@@ -148,6 +171,438 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+
+/-- The underlying `Cofork` of a `ReflexiveCofork`. -/
+def toCofork (G : ReflexiveCofork F) : Cofork (F.map left) (F.map right) :=
+  Cocones.precompose (diagramIsoParallelPair (_ ⋙ F)).symm.hom |>.obj <|
+    G.whisker WalkingParallelPair.inclusionWalkingReflexivePair
+
+@[simp]
+lemma toCofork.π (G : ReflexiveCofork F) : Cofork.π (G.toCofork) = G.π := by
+  dsimp only [toCofork, Cofork.π]
+  aesop_cat
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:525]: I would favour a more down to earth definition here:
```suggestion
abbrev toCofork (G : ReflexiveCofork F) : Cofork (F.map left) (F.map right) :=
  Cofork.ofπ G.π (by simp)
```

Then, `inclusionWalkingReflexivePairEquiv_obj` below become an iso (use `Cofork.ext`) instead of an equality, and the definition of `ReflectiveCofork.isColimitEquiv` would have to be changed, using the composition with `IsColimit.equivIsoColimit (inclusionWalkingReflexivePairEquivObjIso G).symm)`.

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 39]
```diff
@@ -148,6 +171,435 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+    Functor.Final.isColimitWhiskerEquiv _ _
+
+variable {A B : C} {f g : A ⟶ B} [IsReflexivePair f g]
+
+instance ofIsReflexivePairHasColimit_of_hasCoequalizer [HasCoequalizer f g] :
+    HasColimit (ofIsReflexivePair f g) := by
+  suffices _ : HasColimit <|
+    WalkingParallelPair.inclusionWalkingReflexivePair ⋙ (ofIsReflexivePair f g) by
+    · apply Functor.Final.hasColimit_of_comp WalkingParallelPair.inclusionWalkingReflexivePair
+  exact Limits.hasColimitOfIso <| inclusionWalkingReflexivePairOfIsReflexivePairIso f g
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:571]:
```suggestion
  have := Limits.hasColimitOfIso <| inclusionWalkingReflexivePairOfIsReflexivePairIso f g
  apply Functor.Final.hasColimit_of_comp WalkingParallelPair.inclusionWalkingReflexivePair
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 40]
```diff
@@ -148,6 +171,435 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+    Cocone F ≌ Cofork (F.map left) (F.map right) :=
+  (Functor.Final.coconesEquiv _ F).symm.trans
+    (Cocones.precomposeEquivalence
+      (diagramIsoParallelPair (WalkingParallelPair.inclusionWalkingReflexivePair ⋙ F))).symm
+
+instance reflexivePair_hasColimit_of_hasCoequalizer
+    [h : HasCoequalizer (F.map left) (F.map right)] : HasColimit F := by
+  suffices _ : HasColimit (WalkingParallelPair.inclusionWalkingReflexivePair ⋙ F) by
+    · apply Functor.Final.hasColimit_of_comp WalkingParallelPair.inclusionWalkingReflexivePair
+  exact @Limits.hasColimitOfIso _ _ _ _ _ _ h <| diagramIsoParallelPair _
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:542]:
```suggestion
  have := Limits.hasColimitOfIso (show _ ≅ parallelPair (F.map left) (F.map right) from
    diagramIsoParallelPair (WalkingParallelPair.inclusionWalkingReflexivePair ⋙ F))
  apply Functor.Final.hasColimit_of_comp WalkingParallelPair.inclusionWalkingReflexivePair
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 41]
```diff
@@ -148,6 +171,435 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+/-- Forgetting the reflexion yields an equivalence between cocones over a bundled reflexive pair and
+coforks on the underlying parallel pair. -/
+noncomputable def inclusionWalkingReflexivePairEquivCocone :
+    Cocone F ≌ Cofork (F.map left) (F.map right) :=
+  (Functor.Final.coconesEquiv _ F).symm.trans
+    (Cocones.precomposeEquivalence
+      (diagramIsoParallelPair (WalkingParallelPair.inclusionWalkingReflexivePair ⋙ F))).symm
+
+instance reflexivePair_hasColimit_of_hasCoequalizer
+    [h : HasCoequalizer (F.map left) (F.map right)] : HasColimit F := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:539]:
```suggestion
    [HasCoequalizer (F.map left) (F.map right)] : HasColimit F := by
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 42]
```diff
@@ -148,6 +171,435 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+@[simp]
+lemma toCofork.π (G : ReflexiveCofork F) : Cofork.π (G.toCofork) = G.π := by
+  dsimp only [toCofork, Cofork.π]
+  aesop_cat
+
+end ReflexiveCofork
+
+open WalkingReflexivePair WalkingReflexivePair.Hom
+
+variable {F : WalkingReflexivePair ⥤ C}
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:528]: I would declare `F` as an explicit variable here:
```suggestion
variable (F : WalkingReflexivePair ⥤ C)
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 43]
```diff
@@ -148,6 +171,435 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+
+/-- Forgetting the reflexion yields an equivalence between cocones over a bundled reflexive pair and
+coforks on the underlying parallel pair. -/
+noncomputable def inclusionWalkingReflexivePairEquivCocone :
+    Cocone F ≌ Cofork (F.map left) (F.map right) :=
+  (Functor.Final.coconesEquiv _ F).symm.trans
+    (Cocones.precomposeEquivalence
+      (diagramIsoParallelPair (WalkingParallelPair.inclusionWalkingReflexivePair ⋙ F))).symm
+
+instance reflexivePair_hasColimit_of_hasCoequalizer
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:538]: The following lemma could be useful:
```
lemma hasReflexiveCoequalizer_iff_hasCoequalizer :
    HasColimit F ↔ HasCoequalizer (F.map left) (F.map right) := by
  simpa only [hasColimit_iff_hasInitial_cocone]
    using Equivalence.hasInitial_iff (inclusionWalkingReflexivePairEquivCocone F)
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 44]
```diff
@@ -148,6 +171,435 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+
+/-- The colimit of a functor out of the walking reflexive pair is the same as the colimit of the
+underlying parallel pair. -/
+noncomputable def inclusionWalkingReflexivePairColimitEquiv
+    [HasCoequalizer (F.map left) (F.map right)] :
+    colimit F ≅ coequalizer (F.map left) (F.map right) :=
+  (Functor.Final.colimitIso WalkingParallelPair.inclusionWalkingReflexivePair F).symm.trans <|
+    HasColimit.isoOfNatIso <|
+      diagramIsoParallelPair <|
+        WalkingParallelPair.inclusionWalkingReflexivePair ⋙ F
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:552]: It is probably better to rely on the API defined just above:
```suggestion
noncomputable def reflexiveCoqualizerIsoCoequalizer
    [HasCoequalizer (F.map left) (F.map right)] :
    colimit F ≅ coequalizer (F.map left) (F.map right) :=
  ((ReflexiveCofork.isColimitEquiv _).symm (colimit.isColimit F)).coconePointUniqueUpToIso
    (colimit.isColimit _)
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 45]
```diff
@@ -148,6 +171,435 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+  constructor
+  · intro _
+    constructor
+    intro _ _ f g h₁
+    set F := @ofIsReflexivePair _ _ _ _ _ _ h₁
+    exact @Limits.hasColimitOfIso _ _ _ _ _ _
+      (Functor.Final.comp_hasColimit _)
+      (diagramIsoParallelPair (WalkingParallelPair.inclusionWalkingReflexivePair ⋙ F)).symm
+  · intro _
+    exact ⟨by infer_instance⟩
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:601]:
```suggestion
  ⟨fun _ ↦ ⟨fun _ _ f g _ ↦ (hasReflexiveCoequalizer_iff_hasCoequalizer
      (reflexivePair f g (commonSection f g))).1 inferInstance⟩,
    fun _ ↦ ⟨inferInstance⟩⟩
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 46]
```diff
@@ -148,6 +171,431 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+section
+section NatTrans
+
+variable {F G : WalkingReflexivePair ⥤ C}
+  (e₀ : F.obj zero ⟶ G.obj zero) (e₁ : F.obj one ⟶ G.obj one)
+  (h₁ : F.map left ≫ e₀ = e₁ ≫ G.map left := by aesop_cat)
+  (h₂ : F.map right ≫ e₀ = e₁ ≫ G.map right := by aesop_cat)
+  (h₃ : F.map reflexion ≫ e₁ = e₀ ≫ G.map reflexion := by aesop_cat)
+
+/-- A constructor for natural transformations betweens functors from `WalkingReflexivePair`. -/
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:400]:
```suggestion
/-- A constructor for natural transformations between functors from `WalkingReflexivePair`. -/
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 47]
```diff
@@ -148,6 +171,431 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+
+/-- The underlying `Cofork` of a `ReflexiveCofork`. -/
+abbrev toCofork (G : ReflexiveCofork F) : Cofork (F.map left) (F.map right) :=
+  Cofork.ofπ G.π (by simp)
+
+@[simp]
+lemma toCofork.π (G : ReflexiveCofork F) : Cofork.π (G.toCofork) = G.π := by
+  dsimp only [toCofork, Cofork.π]
+  aesop_cat
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:522]: The name should have been `toCofork_π`, but `Cofork.ofπ` behaves better as an abbrev, which makes the lemma unnecessary:
```suggestion
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 48]
```diff
@@ -148,6 +171,431 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+/-- Forgetting the reflexion yields an equivalence between cocones over a bundled reflexive pair and
+coforks on the underlying parallel pair. -/
+def inclusionWalkingReflexivePairEquivCocone :
+    Cocone F ≌ Cofork (F.map left) (F.map right) :=
+  (Functor.Final.coconesEquiv _ F).symm.trans
+    (Cocones.precomposeEquivalence
+      (diagramIsoParallelPair (WalkingParallelPair.inclusionWalkingReflexivePair ⋙ F))).symm
+
+@[inherit_doc inclusionWalkingReflexivePairEquivCocone]
+def inclusionWalkingReflexivePairEquiv_obj (G : ReflexiveCofork F) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:539]:
```suggestion
@[inherit_doc inclusionWalkingReflexivePairEquivCocone]
def inclusionWalkingReflexivePairEquivObjIso (G : ReflexiveCofork F) :
```

Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:539]:
```suggestion
def inclusionWalkingReflexivePairEquivObjIso (G : ReflexiveCofork F) :
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 49]
```diff
@@ -148,6 +171,431 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+
+/-- Forgetting the reflexion yields an equivalence between cocones over a bundled reflexive pair and
+coforks on the underlying parallel pair. -/
+def inclusionWalkingReflexivePairEquivCocone :
+    Cocone F ≌ Cofork (F.map left) (F.map right) :=
+  (Functor.Final.coconesEquiv _ F).symm.trans
+    (Cocones.precomposeEquivalence
+      (diagramIsoParallelPair (WalkingParallelPair.inclusionWalkingReflexivePair ⋙ F))).symm
+
+@[inherit_doc inclusionWalkingReflexivePairEquivCocone]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:538]: Here, we need a specific docstring saying this is an isomorphism.

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 50]
```diff
@@ -148,6 +171,431 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+def inclusionWalkingReflexivePairEquiv_obj (G : ReflexiveCofork F) :
+    (inclusionWalkingReflexivePairEquivCocone F).functor.obj G ≅ G.toCofork :=
+  Cofork.ext (Iso.refl _)
+    (by simp [inclusionWalkingReflexivePairEquivCocone, Cofork.π])
+
+instance reflexivePair_hasColimit_of_hasCoequalizer
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:544]: The point of my lemma `hasReflexiveCoequalizer_iff_hasCoequalizer` was to facilitate the proofs of `reflexivePair_hasColimit_of_hasCoequalizer` and `ofIsReflexivePairHasColimit_of_hasCoequalizer`.

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 51]
```diff
@@ -148,6 +171,431 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+    (IsColimit.precomposeHomEquiv (diagramIsoParallelPair _).symm (G.whisker _)).trans <|
+      Functor.Final.isColimitWhiskerEquiv _ _
+
+/-- The colimit of a functor out of the walking reflexive pair is the same as the colimit of the
+underlying parallel pair. -/
+def inclusionWalkingReflexivePairColimitEquiv
+    [HasCoequalizer (F.map left) (F.map right)] :
+    colimit F ≅ coequalizer (F.map left) (F.map right) :=
+  ((ReflexiveCofork.isColimitEquiv _ _).symm (colimit.isColimit F)).coconePointUniqueUpToIso
+    (colimit.isColimit _)variable {A B : C} {f g : A ⟶ B} [IsReflexivePair f g]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:568]:
```suggestion
    (colimit.isColimit _)
    
variable {A B : C} {f g : A ⟶ B} [IsReflexivePair f g]
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 52]
```diff
@@ -148,6 +171,431 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+/-- A reflexive cofork is a colimit cocone if and only if the underlying cofork is. -/
+def ReflexiveCofork.isColimitEquiv (G : ReflexiveCofork F) :
+    IsColimit (G.toCofork) ≃ IsColimit G :=
+  IsColimit.equivIsoColimit (inclusionWalkingReflexivePairEquiv_obj F G).symm|>.trans <|
+    (IsColimit.precomposeHomEquiv (diagramIsoParallelPair _).symm (G.whisker _)).trans <|
+      Functor.Final.isColimitWhiskerEquiv _ _
+
+/-- The colimit of a functor out of the walking reflexive pair is the same as the colimit of the
+underlying parallel pair. -/
+def inclusionWalkingReflexivePairColimitEquiv
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:564]: The name should contain `Iso`:
```suggestion
def reflexiveCoequalizerIsoCoequalizer
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 53]
```diff
@@ -148,6 +171,431 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+    [HasCoequalizer (F.map left) (F.map right)] :
+    colimit F ≅ coequalizer (F.map left) (F.map right) :=
+  ((ReflexiveCofork.isColimitEquiv _ _).symm (colimit.isColimit F)).coconePointUniqueUpToIso
+    (colimit.isColimit _)variable {A B : C} {f g : A ⟶ B} [IsReflexivePair f g]
+
+instance ofIsReflexivePairHasColimit_of_hasCoequalizer [HasCoequalizer f g] :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:570]: `HasColimit` is a `Prop`, then this instance is a "lemma" (not a "def"), so that according to our naming conventions we should use `_` to connect the different elements in the name:
```suggestion
instance ofIsReflexivePair_hasColimit_of_hasCoequalizer [HasCoequalizer f g] :
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 54]
```diff
@@ -148,6 +171,431 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+    HasColimit (ofIsReflexivePair f g) := by
+  have := Limits.hasColimitOfIso <| inclusionWalkingReflexivePairOfIsReflexivePairIso f g
+  apply Functor.Final.hasColimit_of_comp WalkingParallelPair.inclusionWalkingReflexivePair
+
+/-- The coequalizer of a reflexive pair can be promoted to the colimit of a diagram out of the
+walking reflexive pair -/
+def ofIsReflexivePairColimitEquiv [HasCoequalizer f g] :
+    colimit (ofIsReflexivePair f g) ≅ coequalizer f g :=
+  (Functor.Final.colimitIso _ _).symm.trans <|
+    HasColimit.isoOfNatIso <| inclusionWalkingReflexivePairOfIsReflexivePairIso _ _
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:580]: The name should be changed. For the "proof", it would be better to apply `reflexiveCoequalizerIsoCoequalizer` to `ofIsReflexivePair f g` instead of proving it again.

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean (hunk 52 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:564]: You should also add two simp lemmas expressing compatibilities of this isomorphism with the canonical maps to the colimit and to the coequalizer. Names would be `ι_reflexiveCoequalizerIsoCoequalizer_hom` and `π_reflexiveCoequalizerIsoCoequalizer_inv`. (Same remarls for `ofIsReflexivePairColimitEquiv` below.)

**Comment by robin-carlier** [comment]
I renamed `inclusionWalkingReflexivePairEquivCocone` to `reflexiveCoforkEquivCofork`, and `ofIsReflexivePairColimitEquiv` to `reflexiveCoequalizerIsoCoequalizer`. Since we’are adding simps lemmas, I took the liberty to also add `ofIsReflexivePair_map_left`, `ofIsReflexivePair_map_right`, `reflexiveCoforkEquivCofork_functor_obj_π` and `reflexiveCoforkEquivCofork_inverse_obj_π` for completeness. I couldn’t golf more the proof of the latter unfortunately.

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 55]
```diff
@@ -148,6 +171,486 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+      hom := mkNatTrans e₀.hom e₁.hom
+      inv := mkNatTrans e₀.inv e₁.inv
+        (by rw [← cancel_epi e₁.hom, e₁.hom_inv_id_assoc, ← reassoc_of% h₁, e₀.hom_inv_id,
+            Category.comp_id])
+        (by rw [← cancel_epi e₁.hom, e₁.hom_inv_id_assoc, ← reassoc_of% h₂, e₀.hom_inv_id,
+            Category.comp_id])
+        (by rw [← cancel_epi e₀.hom, e₀.hom_inv_id_assoc, ← reassoc_of% h₃, e₁.hom_inv_id,
+            Category.comp_id])
+      hom_inv_id := by ext x; cases x <;> simp
+      inv_hom_id := by ext x; cases x <;> simp
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:448]:
```suggestion
  hom := mkNatTrans e₀.hom e₁.hom
  inv := mkNatTrans e₀.inv e₁.inv
        (by rw [← cancel_epi e₁.hom, e₁.hom_inv_id_assoc, ← reassoc_of% h₁, e₀.hom_inv_id,
            Category.comp_id])
        (by rw [← cancel_epi e₁.hom, e₁.hom_inv_id_assoc, ← reassoc_of% h₂, e₀.hom_inv_id,
            Category.comp_id])
        (by rw [← cancel_epi e₀.hom, e₀.hom_inv_id_assoc, ← reassoc_of% h₃, e₁.hom_inv_id,
            Category.comp_id])
  hom_inv_id := by ext x; cases x <;> simp
  inv_hom_id := by ext x; cases x <;> simp
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 56]
```diff
@@ -148,6 +171,486 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+variable [HasCoequalizer (F.map left) (F.map right)]
+
+/-- The colimit of a functor out of the walking reflexive pair is the same as the colimit of the
+underlying parallel pair. -/
+def reflexiveCoequalizerIsoCoequalizer :
+    colimit F ≅ coequalizer (F.map left) (F.map right) :=
+  ((ReflexiveCofork.isColimitEquiv _ _).symm (colimit.isColimit F)).coconePointUniqueUpToIso
+    (colimit.isColimit _)
+
+@[simp]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:597]:
```suggestion
@[reassoc (attr := simp)]
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 57]
```diff
@@ -148,6 +171,486 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+lemma ι_reflexiveCoequalizerIsoCoequalizer_hom :
+    colimit.ι F zero ≫ (reflexiveCoequalizerIsoCoequalizer F).hom =
+      coequalizer.π (F.map left) (F.map right) :=
+  IsColimit.comp_coconePointUniqueUpToIso_hom
+    ((ReflexiveCofork.isColimitEquiv F _).symm _) _ WalkingParallelPair.one
+
+@[simp]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:604]:
```suggestion
@[reassoc (attr := simp)]
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 58]
```diff
@@ -148,6 +171,486 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+  hasReflexiveCoequalizer_iff_hasCoequalizer _|>.mpr h
+
+/-- The coequalizer of a reflexive pair can be promoted to the colimit of a diagram out of the
+walking reflexive pair -/
+def colimitOfIsReflexivePairIsoCoequalizer :
+    colimit (ofIsReflexivePair f g) ≅ coequalizer f g :=
+  @reflexiveCoequalizerIsoCoequalizer _ _ (ofIsReflexivePair f g) h
+
+
+@[simp]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:626]:
```suggestion
@[reassoc (attr := simp)]
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 59]
```diff
@@ -148,6 +171,486 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+lemma ι_colimitOfIsReflexivePairIsoCoequalizer_hom :
+    colimit.ι (ofIsReflexivePair f g) zero ≫ colimitOfIsReflexivePairIsoCoequalizer.hom =
+      coequalizer.π f g := @ι_reflexiveCoequalizerIsoCoequalizer_hom _ _ _ h
+
+@[simp]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:631]:
```suggestion
@[reassoc (attr := simp)]
```

File: Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean [hunk 60]
```diff
@@ -148,6 +171,486 @@ instance (priority := 100) hasCoreflexiveEqualizers_of_hasEqualizers [HasEqualiz
...
+lemma reflexiveCoforkEquivCofork_functor_obj_π (G : ReflexiveCofork F) :
+    ((reflexiveCoforkEquivCofork F).functor.obj G).π = G.π := by
+  dsimp [reflexiveCoforkEquivCofork]
+  rw [ReflexiveCofork.π, Cofork.π]
+  aesop_cat
+
+@[simp]
+lemma inclusionWalkingReflexivePairEquivCocone_inverse_obj_π
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:549]:
```suggestion
lemma reflexiveCoforkEquivCofork_inverse_obj_π
```
I will try to see if there is a better proof...

Comment (joelriou) [reply Mathlib/CategoryTheory/Limits/Shapes/Reflexive.lean:549]: Could you add the following lemma in `Functor.Final`:
```lean
/-- Alternative equational lemma for `(extendCocone c).ι.app` in case a lift of the object
is given explicitly. -/
lemma extendCocone_obj_ι_app' (c : Cocone (F ⋙ G)) {X : D} {Y : C} (f : X ⟶ F.obj Y) :
    (extendCocone.obj c).ι.app X = G.map f ≫ c.ι.app Y := by
  sorry
```
and then the proof here can be:
```lean
@[simp]
lemma reflexiveCoforkEquivCofork_inverse_obj_π
    (G : Cofork (F.map left) (F.map right)) :
    ((reflexiveCoforkEquivCofork F).inverse.obj G).π = G.π := by
  dsimp only [reflexiveCoforkEquivCofork, Equivalence.symm, Equivalence.trans,
    ReflexiveCofork.π, Cocones.precomposeEquivalence, Cocones.precompose,
    Functor.comp, Functor.Final.coconesEquiv]
  rw [Functor.Final.extendCocone_obj_ι_app' (Y := .one) (f := 𝟙 zero)]
  simp
```

**Comment by robin-carlier** [comment]
This has been rebased onto https://github.com/leanprover-community/mathlib4/pull/17723, on which it now depends on.

**Comment by joelriou** [comment]
I added a space just before merging #17723, so that you need to `git merge origin` and keep the incoming version.

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 61]
```diff
@@ -758,6 +758,9 @@ theorem isNormal_mul_right {a : Ordinal} (h : 0 < a) : IsNormal (a * ·) :=
 @[deprecated isNormal_mul_right (since := "2024-10-11")]
 alias mul_isNormal := isNormal_mul_right
 
+@[deprecated isNormal_mul_right (since := "2024-10-11")]
+alias mul_isNormal := isNormal_mul_right
+
```
Comment (joelriou) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:763]:
```suggestion
```

File: Mathlib/SetTheory/Ordinal/Exponential.lean [hunk 62]
```diff
@@ -108,6 +108,9 @@ theorem isNormal_opow {a : Ordinal} (h : 1 < a) : IsNormal (a ^ ·) :=
 @[deprecated isNormal_opow (since := "2024-10-11")]
 alias opow_isNormal := isNormal_opow
 
+@[deprecated isNormal_opow (since := "2024-10-11")]
+alias opow_isNormal := isNormal_opow
+
```
Comment (joelriou) [inline Mathlib/SetTheory/Ordinal/Exponential.lean:113]:
```suggestion
```
